US07560558B2
2-Bromo-6-picoline (1.5 g) was dissolved in tetrahydrofuran (40 ml) under an argon atmosphere to prepare a solution. A 1.6 M hexane solution (5.6 ml) of n-butyllithium was added dropwise to the solution at −78° C., and the mixture was then stirred at −78° C. for 30 min. A solution of 4,5-dimethylfurfural (1 g) in tetrahydrofuran (20 ml) was added dropwise thereto, and the temperature of the mixture was raised to room temperature while stirring. Water was added to the reaction solution to stop the reaction, and the solvent was removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-acetone to give (4,5-dimethylfuran-2-yl)-(6-methyl-pyridin-2-yl)-methanol (1.4 g, yield 74%).

reactant | 2-Bromo-6-picoline | 1.5 g | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | hexane | 1.6 M, 5.6 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4,5-dimethylfurfural | 1 g | CC=1C=C(C=O)OC1C | C7H8O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | (4,5-dimethylfuran-2-yl)-(6-methyl-pyridin-2-yl)-methanol | 1.4 g, yield 74% | CC=1C=C(OC1C)C(O)C1=NC(=CC=C1)C | C13H15NO2
